US05290788
A mixture of 4-methoxyphenyl hydrazine hydrochloride (3.0 g), 4-heptanone (1.94 g), and sulfuric acid (1.3 ml) in ethanol (10 ml) was stirred at 10° C. for 3 hours. The cooled mixture was poured into aqueous sodium bicarbonate solution, such that the pH was adjusted to 9. The solution was extracted with ethyl acetate, the organic layer separated, washed with water, dried over magnesium sulfate, and concentrated in vacuo. The crude product was chromatographed on silica gel using 25%-ethyl acetate in n-hexanes as eluent to yield 3-ethyl-5-methoxy-2-propylindole (3.22 g).

reactant | 4-methoxyphenyl hydrazine hydrochloride | 3.0 g | Cl.COC1=CC=C(C=C1)NN
reactant | 4-heptanone | 1.94 g | CCCC(CCC)=O | C7H14O
reactant | sulfuric acid | 1.3 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-ethyl-5-methoxy-2-propylindole | 3.22 g | C(C)C1=C(NC2=CC=C(C=C12)OC)CCC | C14H19NO
